US07145012B2
Preparation of Intermediate 2-(4-Chloro-phenyl)-1-(2-chloro-phenyl)-5-(2-methoxy-vinyl)-1H-imidazole-4-carboxylic acid ethyl ester (I-5g)
To a solution of (methoxymethyl)triphenylphosphonium chloride (533 mg, 1.55 mmol) in THF (10 ml) at 0° C. was added lithium hexamethyldisilazide (1.55 ml, 1M solution, 1.55 mmol). The reaction mixture was stirred for 0.5 h and cooled to −78° C. A solution of 2-(4-chloro-phenyl)-1-(2-chloro-phenyl)-5-formyl-1H-imidazole-4-carboxylic acid ethyl ester I-5e (408 mg, 1.05 mmol) in THF (5 ml) was slowly added via cannula. The reaction mixture was stirred at −78° C. for 5 min, then was allowed to warm to room temperature and stir for 3 hours. The reaction mixture was quenched with H2O and diluted with EtOAc. The organic solution was separated and the aqueous layer was extracted once with EtOAc. The combined EtOAc extracts were washed with sat'd aq. NaCl, dried, and concentrated in vacuo. The crude residue was purified on 4 mm chromatotron plates using 1:1 EtOAc/hexanes to give the product (I-5g) as two isomeric compounds (148 mg, 34% and 157 mg, 36%): +APCI MS (M+1) 417.2

reactant | (methoxymethyl)triphenylphosphonium chloride | 1.55 mmol, 533 mg | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | lithium hexamethyldisilazide | 1.55 mmol, 1M, 1.55 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 2-(4-chloro-phenyl)-1-(2-chloro-phenyl)-5-formyl-1H-imidazole-4-carboxylic acid ethyl ester | 1.05 mmol, 408 mg | C(C)OC(=O)C=1N=C(N(C1C=O)C1=C(C=CC=C1)Cl)C1=CC=C(C=C1)Cl | C19H14Cl2N2O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-(4-Chloro-phenyl)-1-(2-chloro-phenyl)-5-(2-methoxy-vinyl)-1H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(N(C1C=COC)C1=C(C=CC=C1)Cl)C1=CC=C(C=C1)Cl | C21H18Cl2N2O3
